US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 94% yield: 1H NMR (300 MHz, DMSO-d6) δ 3.98-3.89 (m, 2H), 3.57-3.44 (m, 2H), 3.14 (t, J=7.2 Hz, 2H), 2.45 (s, 3H), 1.54-1.42 (m, 2H), 0.79 (t, J=7.2 Hz, 3H); MS (ES+) m/z 270.2 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CCC)=O | C13H19N3O3S
product | 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylic acid | 94% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCC)=O | C11H15N3O3S
